US08134001B2
In a manner similar to the method described in Example 60b, 2-[4-(2-hydroxy-ethoxy)-phenoxy]-5-iodo-benzaldehyde (3.8 g, 9.8 mmol) was reacted with tert-butyldimethylchlorosilane (1.8 g, 12 mmol) and imidazole in N,N-dimethylformamide to give 2-{4-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-phenoxy}-5-iodo-benzaldehyde as a white solid (Yield 4.7 g, 95%).

reactant | 2-[4-(2-hydroxy-ethoxy)-phenoxy]-5-iodo-benzaldehyde | 9.8 mmol, 3.8 g | OCCOC1=CC=C(OC2=C(C=O)C=C(C=C2)I)C=C1 | C15H13IO4
reactant | tert-butyldimethylchlorosilane | 12 mmol, 1.8 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | imidazole | N1C=NC=C1 | C3H4N2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 2-{4-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-phenoxy}-5-iodo-benzaldehyde | Yield 4.7 g, 95% | C(C)(C)(C)[Si](OCCOC1=CC=C(OC2=C(C=O)C=C(C=C2)I)C=C1)(C)C | C21H27IO4Si
